US08242125B2
148-G. (±)-4-[1-(5-Cyclopropyl-isoxazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine-6-carboxylic acid methylamide
To a solution of 4-[1-(5-cyclopropyl-isoxazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester (110 mg, 0.196 mmol) in THF/EtOH/H2O (3:1:1 mL) LiOH (0.016 g, 0.392 mmol) is added and the reaction stirred until starting material is consumed. At this point the reaction is quenched with 1N HCl (2 mL) and extracted with EtOAc. After drying and evaporation, the crude product is dissolved in DCM (3 mL) at 0° C., oxalyl chloride (0.026 mL, 0.294 mmol) and DMF (2 drops) are added. At this point Methylamine (2 M in THF) (0.49 mL, 0.981 mmol) is added and the reaction stirred for 1 h at rt. After work up with water and extraction with EtOAc the crude product is dissolved in DCM (2 mL) and TFA (1 mL) is added. After removing the solvent in vacuo, and basifying with NH4OH, the product is separated using FCC eluting with DCM:MeOH:NR4OH 100:0:0 to 90:8:2. MS (ESI) m/z 474.1 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.21 (s, 1H) 8.43 (s, 1H) 8.21-8.33 (m, 1H) 8.15 (d, J=3.79 Hz, 1H) 7.94 (d, J=5.81 Hz, 1H) 7.44 (d, J=2.27 Hz, 1H) 7.12 (d, J=9.09 Hz, 1H) 6.75 (d, J=3.03 Hz, 1H) 6.65 (s, 1H) 3.91-4.15 (m, 2H) 3.61 (br. s, 1H) 2.83-2.95 (m, 2H) 2.66 (d, J=4.80 Hz, 3H) 2.12-2.24 (m, 1H) 1.03-1.17 (m, 2H) 0.94 (dd, J=4.80, 2.53 Hz, 2H).

reactant | 4-[1-(5-cyclopropyl-isoxazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester | 0.196 mmol, 110 mg | C(C)OC(=O)C1CC2=C(N=CN=C2OC=2C=C3C=CN(C3=CC2)C(NC2=NOC(=C2)C2CC2)=O)CN1C(=O)OC(C)(C)C | C30H32N6O7
reactant | LiOH | 0.392 mmol, 0.016 g | [Li+].[OH-]
reactant | oxalyl chloride | 0.294 mmol, 0.026 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Methylamine | 0.981 mmol, 2 M, 0.49 mL | CN | CH5N
solvent | THF EtOH H2O | 1 mL | C1CCOC1.CCO.O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | (±)-4-[1-(5-Cyclopropyl-isoxazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine-6-carboxylic acid methylamide | CNC(=O)C1CC2=C(N=CN=C2OC=2C=C3C=CN(C3=CC2)C(NC2=NOC(=C2)C2CC2)=O)CN1 | C24H23N7O4
